US07504403B2
1-(2-{2-[3-(1-Amino-1-methyl-ethyl)-phenyl]-1-methyl-ethylamino}-pyrimidin-4-yl)-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one:
To a mixture of [1-methyl-1-(3-{2-[4-(4-oxo-8-phenyl-3,4-dihydro-2H, 6H-pyrimido[1,2-a]pyrimidin-1-yl)-pyrimidin-2-ylamino]-propyl}-phenyl)-ethyl]-carbamic acid tert-butyl ester (0.25 g, 0.42 mmol) and trifluoroacetic acid (1 mL) in dichloromethane (2 mL) was stirred at room temperature for 30 min. The mixture was washed with saturated sodium bicarbonate, brine, dried over magnesium sulfate and was purified by chromatography on silica gel using 0-8% 2 M NH3 MeOH/CH2Cl2. M+1=496. 1NMR (CDCl3) d (3H, 1.23 ppm), s (6H, 1.47 ppm), m (2H, 2.21 ppm), m (1H, 2.82 ppm), m (1H, 2.98 ppm), s (1H, 3.48 ppm), m (4H, 4.12 ppm), m (1H, 4.35 ppm), d (1H, 4.95 ppm), s (1H, 6.60 ppm), d (1H, 7.09 ppm), d (1H, 7.21 ppm), m (2H, 7.36 ppm), m (3H, 7.44 ppm), dd (2H, 7.91 ppm), d (1H, 8.16 ppm).

reactant | [1-methyl-1-(3-{2-[4-(4-oxo-8-phenyl-3,4-dihydro-2H, 6H-pyrimido[1,2-a]pyrimidin-1-yl)-pyrimidin-2-ylamino]-propyl}-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.42 mmol, 0.25 g | C(C)(C)(C)OC(NC(C)(C1=CC(=CC=C1)CC(C)NC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2)C)=O | C34H41N7O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-(2-{2-[3-(1-Amino-1-methyl-ethyl)-phenyl]-1-methyl-ethylamino}-pyrimidin-4-yl)-8-phenyl-1,2,3,6-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | NC(C)(C)C=1C=C(C=CC1)CC(C)NC1=NC=CC(=N1)N1C=2N(C(CC1)=O)CC=C(N2)C2=CC=CC=C2 | C29H33N7O
